US04290971
33.2 g (0.12 M) of N-(2,6-dichlorophenyl)-N'-propionyl-thiourea, 10.5 g (0.08 M) of ground potassium carbonate, 9.6 ml (0.15 M) of methyliodide and 300 ml of acetone are boiled in a reflux for 4 hours under energetic shaking. The acetone is distilled off, 300 ml of water are added to the residue. The sediment is filtered and dried. 34.4 g (98.5% of the theoretical yield) of N-(2,6-dichlorophenyl)-N'-propionyl-S-methyl-isothiourea with a melting point of 165°-170° are obtained. After recrystallization from ethyl alcohol 23.5 g of the product (68.2 % from the raw one) are obtained with a melting range of 173°-176°.

reactant | N-(2,6-dichlorophenyl)-N'-propionyl-thiourea | 0.12 M, 33.2 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(CC)=O | C10H10Cl2N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 0.15 M, 9.6 ml | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-(2,6-dichlorophenyl)-N'-propionyl-S-methyl-isothiourea | ClC1=C(C(=CC=C1)Cl)NC(SC)=NC(CC)=O | C11H12Cl2N2OS
